US06914074B2
1-Chloro-6-phenyl-2-naphthol
The title compound was prepared by reacting 6-bromo-1-chloro-naphthalen-2-ol (300 mg, 1.17 mmol) with phenylboronic acid (170.7 mg, 1.40 mmol) according to method A to yield 240 mg (81%) of white solid: mp 135-137° C.; 1H NMR (DMDO-d6): δ 7.33 (1H, d, J=8.85 Hz), 7.39 (1H, td, J=7.25 Hz, J=0.75 Hz), 7.51 (2H, t, J=7.59 Hz), 7.80 (2H, d, J=7.63 Hz), 7.88 (1H, d, J=8.96 Hz), 7.93 (1H, dd, J=8.85 Hz, J=1.19 Hz), 8.10(1H, d, J=8.84 Hz), 8.20 (1H, s), 10.53 (1H, s); MS (ESI) m/z253/255 (M−H)−.

reactant | 6-bromo-1-chloro-naphthalen-2-ol | 1.17 mmol, 300 mg | BrC=1C=C2C=CC(=C(C2=CC1)Cl)O | C10H6BrClO
reactant | phenylboronic acid | 1.40 mmol, 170.7 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 1-Chloro-6-phenyl-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=CC=CC=C1)O | C16H11ClO
